### PR TITLE
chore: weaken commutativity assumptions for AdjoinRoot.lift and AdjoinRoot.liftHom

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
I weaken a commutativity assumption for docs#AdjoinRoot.liftHom that the target algebra be commutative. It is only assumed to be a Semiring.
For that, I need to generalize docs#AdjoinRoot.lift which takes `i : R ->+* S`, `a : S` with `f.eval₂ i a = 0` and defines `AdjoinRoot f ->+* S` that extends `i ` and sends `AdjoinRoot.root f` to `a`.

---

The initial version of the PR was to define `AdjoinRoot.lift'` where `S` is only a Semiring, with the additional assumption `hcomm : ∀ r, Commute (i r) a` that the element `a` commutes with the image of `i`.

@jcommelin suggested to provide this argument as an `autoParam`, filled in by an ad hoc `commutativity` tactic. However, such an argument cannot be made implicit and a first version required to have this argument given each time, most of the time by `_`, even for all subsequent lemmas, `AdjoinRoot.lift_mk`, etc.

To avoid this, I tried to make this assumption a `⦃hcomm : ∀ r, Commute (i r) a⦄`. This appears to have some side effects that proofs using an `exact` tactic or in term mode do not work well, but one can resort on `by simp […]`. Maybe @eric-wieser or @Vierkantor will have opinions on that. In some cases one can still give the argument as `(hcomm := by commutativity)`.

(There are 3 options :
- separate lemmas for the fully commutative case and for the case where a proof is needed
- using the `commutativity` tactic, but with an argument `_` sometimes
- using the optional argument.)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/AdjoinRoot.lean [hunk 1]
```diff
@@ -266,48 +272,57 @@ theorem of.injective_of_degree_ne_zero [IsDomain R] (hf : f.degree ≠ 0) :
     rwa [degree_C h_contra, zero_le_degree_iff]
 #align adjoin_root.of.injective_of_degree_ne_zero AdjoinRoot.of.injective_of_degree_ne_zero
 
-variable [CommRing S]
-
-/-- Lift a ring homomorphism `i : R →+* S` to `AdjoinRoot f →+* S`. -/
-def lift (i : R →+* S) (x : S) (h : f.eval₂ i x = 0) : AdjoinRoot f →+* S := by
-  apply Ideal.Quotient.lift _ (eval₂RingHom i x)
+/-- Given `s : S`, lift a ring homomorphism `i : R →+* S` whose image commutes
+ with `s`
```
Comment (eric-wieser) [inline Mathlib/RingTheory/AdjoinRoot.lean:276]:
```suggestion
/-- Given `x : S`, lift a ring homomorphism `i : R →+* S` whose image commutes
 with `x`
```

File: Mathlib/FieldTheory/Adjoin.lean [hunk 2]
```diff
@@ -991,7 +991,8 @@ noncomputable def adjoinRootEquivAdjoin (h : IsIntegral F α) :
 
 theorem adjoinRootEquivAdjoin_apply_root (h : IsIntegral F α) :
     adjoinRootEquivAdjoin F h (AdjoinRoot.root (minpoly F α)) = AdjoinSimple.gen F α :=
-  AdjoinRoot.lift_root (aeval_gen_minpoly F α)
+   -- It is a bit annoying that one be obliged to fill in this implicit hypothesis
+  AdjoinRoot.lift_root (hc := fun _ ↦ Commute.all _ _) (aeval_gen_minpoly F α)
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/FieldTheory/Adjoin.lean]: @jcommelin I tried to think about this, but got confused by the syntax and could not make any progress (what I tried did not work at all). From the Zulip discussion, it seems that you had an idea of how that could be implemented… Could you please share some hint?

[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/FieldTheory/Adjoin.lean]: I pushed to `jmc-AdjoinRoot`. I'll let you decide which option you prefer.

(Note that I renamed `lift'` to `lift`, and there is now only one version.)

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/FieldTheory/Adjoin.lean]: I just had a look! Wonderful!

**Comment by AntoineChambert-Loir** [comment]
The `Adjoin.lift` function now allows that target to be noncommutative, it only needs a proof that the element that `Adjoin.root f` maps to commutes with the image of the ring. 
Thanks to a tactic `commutativity` provided by @jcommelin , this argument can be filled automatically.
In all subsequent rewriting lemmas, I made it ⦃hcomm : ∀ r, Commute (i r) a⦄, but the defect is that I couldn't really use `exact` tactics, or term-mode proofs, so that the proofs are now a bit ugly, using a lot of `by simp […]`.

**Comment by Vierkantor** [comment]
I pushed a commit which tags a few lemmas and replaces `commutativity` with a call to `aesop`. It's almost as good as original for the commutative case, if you ignore the parentheses :)

File: Mathlib/RingTheory/AdjoinRoot.lean [hunk 3]
```diff
@@ -266,43 +269,81 @@ theorem of.injective_of_degree_ne_zero [IsDomain R] (hf : f.degree ≠ 0) :
...
-variable [CommRing S]
+/-- `commutativity` is a tactic that discharges goals of the form `Commute a b`
+in commutative semirings by using `aesop`.
 
-/-- Lift a ring homomorphism `i : R →+* S` to `AdjoinRoot f →+* S`. -/
-def lift (i : R →+* S) (x : S) (h : f.eval₂ i x = 0) : AdjoinRoot f →+* S := by
-  apply Ideal.Quotient.lift _ (eval₂RingHom i x)
+It is currently only used in `AdjoinRoot.lift`. -/
+macro "commutativity" : tactic =>
+  `(tactic| first | aesop |
```
Comment (eric-wieser) [inline Mathlib/RingTheory/AdjoinRoot.lean:277]: This should probably raise an error if there is no `Commute` in the goal

Comment (jcommelin) [reply Mathlib/RingTheory/AdjoinRoot.lean:277]: @eric-wieser Do you know how to check this? I don't...

Comment (eric-wieser) [reply Mathlib/RingTheory/AdjoinRoot.lean:277]: Are Aesop rulesets a thing? If not, using `guard_target` would probably work.

Comment (Vierkantor) [reply Mathlib/RingTheory/AdjoinRoot.lean:277]: `guard_target` isn't quite what we want here: for example, `lift` wants to use `commutativity` to solve `∀ r, Commute (i r) x`.

WRT rulesets: do you mean we should set the `commutativity` tactic to use a commutativity ruleset exclusively? I feel like that's premature optimization.

Comment (eric-wieser) [reply Mathlib/RingTheory/AdjoinRoot.lean:277]: Yes, I think we should do that because it matches the pattern set by `measurability`. I don't think that `commutativity` as a tactic should be solving everything that `aesop` can solve.

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/AdjoinRoot.lean:277]: @eric-wieser @Vierkantor do you want me to try copying the measurability tactic file and build a commutativity tactic along its line?

File: Mathlib/Tactic/Commutativity.lean [hunk 4]
```diff
@@ -0,0 +1,46 @@
+/-
+Copyright (c) 2024 Antoine Chambert-Loir. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Antoine Chambert-Lori (based on Measurability, by Miyahara Kō)
```
Comment (Vierkantor) [inline Mathlib/Tactic/Commutativity.lean:4]: Typo? :)
```suggestion
Authors: Antoine Chambert-Loir (based on Measurability, by Miyahara Kō)
```

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!

**Comment by AntoineChambert-Loir** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/43971
